US07795283B2
iii) 2-(1,4-Dioxaspiro[4.5]dec-7-en-8-yl)-5-nitropyridine
A stirred solution of 8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,4-dioxaspiro[4.5]dec-7-ene prepared as above (8.40 g, 31.56 mmol), 2-bromo-5-nitropyridine (6.0 g, 29.55 mmol) in DME (200 mL), degassed 2M potassium carbonate (40 mL) was added palladium tetrakis(triphenylphosphine) (Pd(PPh3)4; 1.8 g, 1.58 mmol). The reaction mixture was evacuated with nitrogen (3 cycles) and allowed to stir under vacuum for 5 minutes, then heated to 80° C. overnight. The reaction mixture was allowed to cool to ambient temperature, EtOAc (200 mL) was added followed by water (200 mL), the suspension was filtered and the organic phase was separated and the aqueous layer re-extracted into EtOAc (200 mL). The organic extracts were combined, washed with brine (200 mL), dried (MgSO4) and concentrated to leave crude product. DCM was added and the suspension was filtered and dried to leave the title compound (1.64 g). The filtrate was concentrated after the addition of DCM a further 1.51 g of product was obtained, the filtrate was purified on a 120 g SiliCycle cartridge eluting 20-50-70% EtOAc in isohexane to provide 1.72 g of product. Total yield is 4.85 g (18.51 mmol, 58%);

reactant | 8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,4-dioxaspiro[4.5]dec-7-ene | CC1(OB(OC1(C)C)C1=CCC2(OCCO2)CC1)C | C14H23BO4
reactant | 2-bromo-5-nitropyridine | 29.55 mmol, 6.0 g | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | DME | 200 mL | COCCOC | C4H10O2
catalyst | palladium tetrakis(triphenylphosphine) | 1.58 mmol, 1.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 2-(1,4-Dioxaspiro[4.5]dec-7-en-8-yl)-5-nitropyridine | 1.64 g | O1CCOC12CC=C(CC2)C2=NC=C(C=C2)[N+](=O)[O-] | C13H14N2O4
